US05073629
Triethylamine (2.49 ml, 17.88 mmol) was added to a stirred solution of ethyl 8-dimethylamino-6,6-diphenyl-5-hydroxynon-2-enoate (1.77 g, 4.47 mmol) in CH2Cl2 (30 ml) at -30° C. (CCl4 /acetone/CO2), and the solution was stirred for 5 min. Trifluoromethanesulfonyl chloride (0.38 ml, 4.91 mmol) was then added dropwise. The reaction mixture was stirred 15 min at -30° C., warmed to room temperature over 1 hour, and then stirred at room temperature for 2 hours. The mixture was diluted with CH2Cl2 (20 ml) and poured into 5% NaHCO3 (20 ml). The layers were separated, and the organic extracts were washed with brine (30 ml). The extracts were dried over Na2SO4 /trace K2CO3, filtered, and concentrated in vacuo on a rotary evaporator. The oily brown residue was applied to a column as described above, and eluted with 6% methanol in CHCl3 to yield 1.05 g of ethyl 6,6-diphenyl-8-dimethylaminonona-2,4-dienoate, as a clear light brown mobile oil.

reactant | Triethylamine | 17.88 mmol, 2.49 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 8-dimethylamino-6,6-diphenyl-5-hydroxynon-2-enoate | 4.47 mmol, 1.77 g | CN(C(CC(C(CC=CC(=O)OCC)O)(C1=CC=CC=C1)C1=CC=CC=C1)C)C | C25H33NO3
reactant | CCl4 acetone CO2 | C(Cl)(Cl)(Cl)Cl.CC(=O)C.C(=O)=O
reactant | Trifluoromethanesulfonyl chloride | 4.91 mmol, 0.38 ml | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
reactant | NaHCO3 | 20 ml | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | ethyl 6,6-diphenyl-8-dimethylaminonona-2,4-dienoate | 1.05 g | C1(=CC=CC=C1)C(C=CC=CC(=O)OCC)(CC(C)N(C)C)C1=CC=CC=C1 | C25H31NO2
